US07199135B2
To a solution of (4R)-3-[(2R)-2-(4-chlorophenyl) propanoyl]-4-isopropyl-1,3-oxazolidin-2-one (1.58 g, 5.35 mmol) in 45 mL THF/H2O (3:1) at 0° C., was added 30% H2O2 (4.9 mL, 42.8 mmol) followed by LiOH (449 mg, 10.7 mmol). The resulting mixture was stirred at 0° C. for 2 h and the excess peroxide was quenched at 0° C. with 1.5 N aqueous Na2SO3 (31 mL). After buffering to pH 9–10 with aqueous NaHCO3 and evaporation of the THF, the oxazolidone chiral auxiliary was recovered by EtOAc extraction (50 mL×3). The aqueous layer was acidified with 3N HCl and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered and concentrated in vacuo to give 0.97 g (5.27 mmol, 98%) of (2R)-2-(4-chlorophenyl)propanoic acid; [α]D=−64.8° (C=1.05, MeOH): 1H NMR (400 MHz, CDCl3) δ 12.2–10.8 (br, 1 H), 7.32–7.23 (m, 4 H), 3.72 (q, 1 H, J=7.3 Hz), 1.50 (d, 3 H, J=7.3 Hz); ESMS m/e: 183.2 (M−H)+.

reactant | (4R)-3-[(2R)-2-(4-chlorophenyl) propanoyl]-4-isopropyl-1,3-oxazolidin-2-one | 5.35 mmol, 1.58 g | ClC1=CC=C(C=C1)[C@H](C(=O)N1C(OC[C@H]1C(C)C)=O)C | C15H18ClNO3
reactant | H2O2 | 42.8 mmol, 4.9 mL | OO | H2O2
reactant | LiOH | 10.7 mmol, 449 mg | [Li+].[OH-]
solvent | THF H2O | 45 mL | C1CCOC1.O
product | (2R)-2-(4-chlorophenyl)propanoic acid | 5.27 mmol, 0.97 g, 98% | ClC1=CC=C(C=C1)[C@H](C(=O)O)C | C9H9ClO2
